US06541423B1
1.2 3-Methyl-2,4-dicyanothiophenol
At 25-35° C., a solution of 110.5 g (0.85 mol) of 60 percent pure sodium sulfide in 425 ml of water was added dropwise to a solution of 170 g (0.85 mol) of 2-methyl-4-thiocyanoisophthalonitrile in 850 ml of methanol, and the mixture was stirred at room temperature for 3 hours. The mixture was then admixed with 1000 ml of water and extracted with methyl tert-butyl ether. The aqueous phase was acidified to pH 1 using HCl, and the thiophenol was extracted with methylene chloride. The extract was washed three times with water, and the organic phase was then separated off, dried over sodium sulfate and concentrated. Yield: 150 g (99%).

reactant | sodium sulfide | 0.85 mol, 110.5 g | [S-2].[Na+].[Na+]
reactant | 2-methyl-4-thiocyanoisophthalonitrile | 0.85 mol, 170 g | CC1=C(C#N)C=CC(=C1C#N)SC#N | C10H5N3S
solvent | water | 425 ml | O | H2O
solvent | methanol | 850 ml | CO | CH4O
solvent | water | 1000 ml | O | H2O
product | 3-Methyl-2,4-dicyanothiophenol | CC=1C(=C(C=CC1C#N)S)C#N | C9H6N2S
